US08404856B2
Step 8: 3-chloro-5-{[4-chloro-2-oxo-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1,2-dihydropyridin-3-yl]oxy}benzonitrile 21-8
To a solution of 3-chloro-5-[(4-chloro-2-hydroxypyridin-3-yl)oxy]benzonitrile (150 mg, 0.534 mmol) in DMF (3 mL) was added tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (167 mg, 0.534 mmol) and potassium carbonate (73.8 mg, 0.534 mmol) and the mixture warmed to 55° C. for 60 minutes. After this time, the reaction mixture was purified by preparative HPLC using a Luna reverse phase column (10μ, C18, 250×21.2 mm) and eluting with a gradient of 5-95% ACN/water (0.5% TFA). The desired fractions were combined and the solvent evaporated in vacuo. The residue was dissolved in TFA (10 mL) and allowed to stand at room temperature for 15 minutes and then the solvent was evaporated in vacuo to give a white solid. This solid was suspended in ACN (10 mL) and the solvent evaporated in vacuo to give the title compound. 1H NMR (DMSO-d6) δ=13.64 (s, 1H), 8.52 (dd, 1H, J=1.6 and 4.5 Hz), 8.15 (dd, 1H, J=1.4 and 8.06 Hz), 7.90 (d, 1H, J=7.5 Hz), 7.73 (dd, 1H, J=1.7 and 1.4 Hz), 7.50 (dd, 1H, J=2.5 and 1.2 Hz), 7.41 (dd, 1H, J=3.2 and 1.9 Hz), 7.18 (dd, 1H, J=4.5 and 8.06 Hz), 6.61 (d, 1H, J=7.5 Hz) and 5.48 (s, 2H) ppm. HRMS (M+1): 412.0372.

reactant | 3-chloro-5-[(4-chloro-2-hydroxypyridin-3-yl)oxy]benzonitrile | 0.534 mmol, 150 mg | ClC=1C=C(C#N)C=C(C1)OC=1C(=NC=CC1Cl)O | C12H6Cl2N2O2
reactant | tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.534 mmol, 167 mg | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
reactant | potassium carbonate | 0.534 mmol, 73.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | 3-chloro-5-{[4-chloro-2-oxo-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1,2-dihydropyridin-3-yl]oxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC=1C(N(C=CC1Cl)CC1=NNC2=NC=CC=C21)=O | C19H11Cl2N5O2
